US07727985B2
A solution of 2-(tert-butoxycarbonylamino)-cyclopentanecarboxylic acid (6-chloro-9H-β-carbolin-8-yl) amide (736 mg, 1.72 mmol) in trifluoroacetic acid (5 ml) was stirred at RT for 20 min, then concentrated to an orange oil. The oil was dissolved in MeOH (5 ml) and neutralized with a saturated aqueous sodium bicarbonate solution (25 ml). The resulting mixture was further diluted with H2O (25 ml) and EtOAc (100 ml). The aqueous layer was removed and extracted with EtOAc (100 ml). The organic layers were combined, washed with brine, dried over MgSO4, filtered and concentrated to yellow solids (507 mg). These solids were dissolved in MeOH (5 ml) and a solution of HCl in dioxane (4 M, 1.5 ml) was added. The bright yellow solution was stirred 30 min, then concentrated to yield cis-2-amino-cyclopentanecarboxylic acid (6-chloro-9H-β-carbolin-8-yl)-amide as a yellow powder (600 mg).

reactant | 2-(tert-butoxycarbonylamino)-cyclopentanecarboxylic acid (6-chloro-9H-β-carbolin-8-yl) amide | 1.72 mmol, 736 mg | ClC=1C=C2C=3C=CN=CC3NC2=C(C1)NC(=O)C1C(CCC1)NC(=O)OC(C)(C)C | C22H25ClN4O3
solvent | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
product | cis-2-amino-cyclopentanecarboxylic acid (6-chloro-9H-β-carbolin-8-yl)-amide | 600 mg | ClC=1C=C2C=3C=CN=CC3NC2=C(C1)NC(=O)[C@H]1[C@H](CCC1)N | C17H17ClN4O
